US05719297
A 84 mg amount of (3R)-3-[(1R,7aR)-octahydro-4-bromomethylene-7a-methyl-1H-inden-1-yl]butyronitrile was taken in a 25 ml eggplant-shaped flask, then 5 ml of dried dichloromethane was then added to dissolve the same. The solution was cooled by a -70° C. bath, then 660 μl of a 1.5 M [(CH3)2CHCH2 ]2AlH/toluene solution was added dropwise. The solution was stirred at the same temperature for 1 hour, then 0.5 ml of a saturated aqueous solution of sodium sulfate, 0.3 ml of methanol, 0.5 ml of 2 N hydrochloric acid, and 15 ml of ethyl acetate were added and the solution stirred for 30 minutes. The reaction solution was filtered by Celite, then was washed by a saturated solution of ammonium chloride and saturated saline, then was dried over anhydrous magnesium sulfate and the desiccant filtered out. The solvent was distilled off under reduced pressure to obtain (3R)-3-[(1R,7aR)-octahydro-4-bromomethylene-7a-methyl-1H-inden-1-yl]butanol in an amount of 85 mg.

reactant | (3R)-3-[(1R,7aR)-octahydro-4-bromomethylene-7a-methyl-1H-inden-1-yl]butyronitrile | BrC=C1C2CC[C@@H]([C@]2(CCC1)C)[C@@H](CC#N)C | C15H22BrN
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | hydrochloric acid | 2 N, 0.5 ml | Cl | ClH
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 0.3 ml | CO | CH4O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (3R)-3-[(1R,7aR)-octahydro-4-bromomethylene-7a-methyl-1H-inden-1-yl]butanol | BrC=C1C2CC[C@@H]([C@]2(CCC1)C)[C@@H](CCO)C | C15H25BrO
